US07122543B2
N-[5-(5,6-Dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-(3-methoxyphenyl)benzoyl]-piperidine
5-(5,6-Dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-(3-methoxyphenyl)benzoic acid (100 mg, 0.2369 mmol) and piperidine (40 mg, 0.4705 mmol) were dissolved in methylene chloride (20 ml), then 4-dimethylaminopyridine (6 mg, 0.0491 mmol) and WSC-HCl (136 mg, 0.7094 mmol) were added thereto and the mixture was stirred for 6 hours at room temperature. The reaction solution was washed with water and dried and the solvent was evaporated therefrom. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=1:1) to give the title compound (58 mg, 0.1186 mmol, 50%).

reactant | 5-(5,6-Dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-(3-methoxyphenyl)benzoic acid | 0.2369 mmol, 100 mg | COC=1C(C(=C(C(C1OC)=O)CC=1C=CC(=C(C(=O)O)C1)C1=CC(=CC=C1)OC)C)=O | C24H22O7
reactant | piperidine | 0.4705 mmol, 40 mg | N1CCCCC1 | C5H11N
reactant | WSC HCl | 0.7094 mmol, 136 mg | CCN=C=NCCCN(C)C.Cl
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 0.0491 mmol, 6 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | N-[5-(5,6-Dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-(3-methoxyphenyl)benzoyl]-piperidine | 0.1186 mmol, 58 mg, 50% | COC=1C(C(=C(C(C1OC)=O)CC=1C=CC(=C(C(=O)N2CCCCC2)C1)C1=CC(=CC=C1)OC)C)=O | C29H31NO6
